US04208517
(b) (6R,7R)-3-Acetoxymethyl-7-[Z-2-{2-(3,3-dimethylureidocarbonyl)prop-2-yloxyimino}-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylic acid
This compound was prepared from 1-(2-bromo-2-methylpropionyl)-3,3-dimethylurea and (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt by the method described in Example 1. λmax (EtOH) 275 nm (ε 16,500), νmax (Nujol) 3260 (NH), 3700-2100 (bonded OH), 1788 (β-lactam), 1735 (acetate), 1720 (--CO2H), 1670, 1540 cm-1 (--CONH), τ (DMSO d6) 7.09 (N(Me)2), 0.97 (--CONHCO--), 8.5 (C(Me)2), 2.06, 3.28, 3.16 (furyl), 0.18 (CONH), 4.01 (7 H), 4.71 (6 H), 6.25, 6.46 (2--CH2 --), 4.97, 5.29 (3--CH2 --), 7.98 (CH3CO). Yield: 59%.

reactant | 1-(2-bromo-2-methylpropionyl)-3,3-dimethylurea | BrC(C(=O)NC(=O)N(C)C)(C)C | C7H13BrN2O2
reactant | (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt | [Na+].C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/O)\C=2OC=CC2)=O)=O
reactant | EtOH | CCO | C2H6O
reactant | acetate | C(C)(=O)[O-]
solvent | DMSO | CS(=O)C | C2H6OS
product | (6R,7R)-3-Acetoxymethyl-7-[Z-2-{2-(3,3-dimethylureidocarbonyl)prop-2-yloxyimino}-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylic acid | Yield: 59% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(\C=2OC=CC2)=N/OC(C)(C)C(=O)NC(=O)N(C)C)=O)=O | C23H27N5O10S
